US07662960B2
(1) Preparation of 2-Benzyloxycarbonylamino-4-Oxo-Butyric Acid Benzyl Ester
To a solution of Z-Asp-OBn (10 g, 0.028 mol) in MC (200 ml), oxalyl chloride (2.93 ml, 0.0336 mol) and a catalytic amount of DMF were added at 0° C. and stirred at room temperature for 2 hrs. After the solvent was evaporated, the crude acyl chloride was dissolved in benzene (400 ml), and tributyltin hydride (15.1 ml, 0.056 mol) and a catalytic amount of Pd(0) were added slowly at 0° C. and stirred at room temperature overnight. After the solvent was evaporated, ether (100 ml)/10% KF in water (100 ml) was added and stirred at room temperature for 2 hrs, followed by filtration to give a biphasic solution. The organic layer was separated and concentrated to give a crude product, which was purified by column chromatography to obtain the title compound, Z-Asp-OBn aldehyde (6 g) as pale-yellow oil.

reactant | Z-Asp-OBn | 0.028 mol, 10 g | N([C@@H](CC(O)=O)C(=O)OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1 | C19H19NO6
reactant | oxalyl chloride | 0.0336 mol, 2.93 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | tributyltin hydride | 0.056 mol, 15.1 ml | C(CCC)[SnH](CCCC)CCCC
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-Benzyloxycarbonylamino-4-Oxo-Butyric Acid Benzyl Ester | C(C1=CC=CC=C1)OC(C(CC=O)NC(=O)OCC1=CC=CC=C1)=O | C19H19NO5
